US06392059B1
Similarly to Example 1, 1.37 g(13.9 mmol) of (R)-5-methyl-2(5H)-furanone and 1.70 g(1 equivalent) of 4,4,6,7-tetrahydroisobenzofuran in 2 ml of dehydrated ether solution were reacted with 1.06 g of lithium perchlorate to obtain 2.20 g of (3R,3aR,4R,9S,9aS)-4,9-epoxy-3-methyl-3a,4,5,6,7,8,9,9a-octahydronaphtho[2,3-c]furan-1(3H)-one(yield 72%).

reactant | (R)-5-methyl-2(5H)-furanone | 13.9 mmol, 1.37 g | C[C@@H]1C=CC(O1)=O | C5H6O2
reactant | lithium perchlorate | 1.06 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | ether | 2 ml | CCOCC | C4H10O
product | (3R,3aR,4R,9S,9aS)-4,9-epoxy-3-methyl-3a,4,5,6,7,8,9,9a-octahydronaphtho[2,3-c]furan-1(3H)-one | 2.20 g, yield 72% | O1[C@H]2C=3CCCCC3[C@@H]1[C@H]1C(O[C@@H]([C@@H]12)C)=O | C13H16O3
